US05344843
As in example 10, 4-[3-(4-acetyl-3-hydroxyphenoxy)propoxy]-alpha-oxobenzeneacetic acid ethyl ester (0.7 g) in methanol (70 mL) was treated with a solution of sodium carbonate (0.42 g) in water and brought just to reflux temperature, then was allowed to cool to room temperature. After 1 hour, most of the methanol was removed in vacuo, then the mixture was diluted with water, acidified with 3N hydrochloric acid and extracted twice with dichloromethane-tetrahydrofuran (1:1). Evaporation of the dried (MgSO4) extracts and crystallization of the solid residue from dichlorornethane-hexane afforded 0.58 g of 4-[3-(4-acetyl-3-hydroxyphenoxy)propoxy]-alpha-oxobenzeneacetic acid, mp 133°-135° C.

reactant | 4-[3-(4-acetyl-3-hydroxyphenoxy)propoxy]-alpha-oxobenzeneacetic acid ethyl ester | 0.7 g | C(C)OC(C(C1=CC=C(C=C1)OCCCOC1=CC(=C(C=C1)C(C)=O)O)=O)=O | C21H22O7
reactant | sodium carbonate | 0.42 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 70 mL | CO | CH4O
solvent | water | O | H2O
product | 4-[3-(4-acetyl-3-hydroxyphenoxy)propoxy]-alpha-oxobenzeneacetic acid | 0.58 g | C(C)(=O)C1=C(C=C(OCCCOC2=CC=C(C=C2)C(C(=O)O)=O)C=C1)O | C19H18O7
